US07615642B2
Step E: N-{5-(acetylamino)-2-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}-2,2-dimethylpropanamide
N-{3-Amino-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}acetamide (25.9 g, 98.6 mmol) and DIPEA (20.6 mL, 15.4 g, 118 mmol) were dissolved in 500 mL of DCM. Trimethylacetyl chloride (12.7 mL, 12.5 g, 103 mmol) was added dropwise at 0° C. and the solution was stirred for 3 h at 0° C. and 1 h at room temperature. The pink solid was collected by filtration, washed with H2O and dried in vacuo. Yield: 33.1 g (97%); MS (ESI) (M+H)+=348.05.

reactant | N-{3-Amino-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}acetamide | 98.6 mmol, 25.9 g | NC=1C=C(C=CC1NCC1CCOCC1)NC(C)=O | C14H21N3O2
reactant | DIPEA | 118 mmol, 20.6 mL, 15.4 g | CCN(C(C)C)C(C)C | C8H19N
reactant | Trimethylacetyl chloride | 103 mmol, 12.7 mL, 12.5 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | N-{5-(acetylamino)-2-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}-2,2-dimethylpropanamide | C(C)(=O)NC=1C=CC(=C(C1)NC(C(C)(C)C)=O)NCC1CCOCC1 | C19H29N3O3
